US07399867B2
Dissolve benzo[b]thiophen-6-ol (10 g, 67 mmol) in pyridine (300 mL). Add 2,2-dimethyl-propionyl chloride (38 mL, 308 mmol) dropwise, and stir at room temperature for 8 hours. Concentrate in vacuo to ¼ Volume, partition between ethyl acetate (250 mL) and water (250 mL). Separate layers, wash organic layer with water (250 mL) and brine (200 mL). Dry with magnesium sulfate, filter, and concentrate in vacuo to give 15 g of 2,2-dimethyl-propionic acid benzo[b]thiophen-6-yl ester (98%).

reactant | benzo[b]thiophen-6-ol | 67 mmol, 10 g | S1C2=C(C=C1)C=CC(=C2)O | C8H6OS
reactant | 2,2-dimethyl-propionyl chloride | 308 mmol, 38 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-propionic acid benzo[b]thiophen-6-yl ester | 15 g, 98% | S1C2=C(C=C1)C=CC(=C2)OC(C(C)(C)C)=O | C13H14O2S
